US04778793
(a) 2-(2-Methoxyphenyl)-3-(2-nitrophenyl)-2-propenoic acid
25 g of 2-nitrobenzaldehyde, 28 g of 2-methoxyphenylacetic acid and 0.16 mol of diisopropylethylamine are boiled under reflux in 90 ml of acetic anhydride under nitrogen for 8 hours. After cooling to 60° C. , the mixture is poured onto 200 ml of hot water. The mixture is stirred for a further 2 hours, while cooling, and the product is filtered off with suction and washed with a little cold ethanol. Recrystallization from ethanol gives 38.7 g of the title compound of melting point 217°-219° C.

reactant | 2-nitrobenzaldehyde | 25 g | [N+](=O)([O-])C1=C(C=O)C=CC=C1 | C7H5NO3
reactant | 2-methoxyphenylacetic acid | 28 g | COC1=C(C=CC=C1)CC(=O)O | C9H10O3
reactant | diisopropylethylamine | 0.16 mol | C(C)(C)N(CC)C(C)C | C8H19N
reactant | water | 200 ml | O | H2O
solvent | acetic anhydride | 90 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 2-(2-Methoxyphenyl)-3-(2-nitrophenyl)-2-propenoic acid | 38.7 g | COC1=C(C=CC=C1)C(C(=O)O)=CC1=C(C=CC=C1)[N+](=O)[O-] | C16H13NO5
